US09029560B2
Preparation of (E)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylic acid (C22)
To (E)-ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate (C17) (1.95 g, 4.83 mmol) in methanol (25 mL) was added sodium hydroxide (2 N, 10 mL, 20.0 mmol) and the solution was stirred at room temperature overnight. The methanol was evaporated off under reduced pressure, the reagents were diluted with acetonitrile, and additional sodium hydroxide (2 N, 20 mL, 40.0 mmol) was added. The reaction was stirred at room temperature for 5 hours and then acidified with hydrogen chloride (2 N). The white precipitate was vacuum-filtered to afford the title compound as a white solid (1.72 g, 94%): mp 239-241° C.; 1H NMR (400 MHz, DMSO-d6) δ 12.48 (s, 1H), 9.44 (s, 1H), 8.14 (d, J=8.4 Hz, 2H), 8.12-8.05 (m, 2H), 7.85 (d, J=8.4 Hz, 2H), 7.69-7.59 (m, 3H), 6.61 (d, J=16.0 Hz, 1H); 19F NMR (376 MHz, DMSO-d6) δ −56.96; ESIMS m/z 376 ([M+H]+).

reactant | (E)-ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate | 4.83 mmol, 1.95 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)/C=C/C(=O)OCC)(F)F | C20H16F3N3O3
reactant | sodium hydroxide | 20.0 mmol, 2 N, 10 mL | [OH-].[Na+]
reactant | sodium hydroxide | 40.0 mmol, 2 N, 20 mL | [OH-].[Na+]
reactant | hydrogen chloride | 2 N | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | (E)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylic acid | 1.72 g, 94% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)/C=C/C(=O)O)(F)F | C18H12F3N3O3
